US06008230
To a solution of 1,4-dihydro-3-hydroxymethyl-8-nitro-4-oxoquinoline (3.1 g) in trifluoroacetic acid (10 ml) and dichloromethane (10 ml) was added triethylsilane (6.55 g), and the mixture was stirred at ambient temperature overnight. The mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 1,4-dihydro-3-methyl-8-nitro-4-oxoquinoline (2.3 g).

reactant | 1,4-dihydro-3-hydroxymethyl-8-nitro-4-oxoquinoline | 3.1 g | OCC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C10H8N2O4
reactant | triethylsilane | 6.55 g | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1,4-dihydro-3-methyl-8-nitro-4-oxoquinoline | 2.3 g | CC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C10H8N2O3
